US06605626B2
G. N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbony]-4-hydroxy-1,2-benzenediamine
A solution of N1-(4-chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbony]-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine (97 mg, 0.16 mmol) in tetrahydrofuran (2 mL) was treated with 5 N aqueous hydrochloric acid (0.5 mL) and allowed to stand at ambient temperature for 18 h. Volatile solvents were removed in vacuo and the residue diluted with dilute sodium hydrogen carbonate solution, hexane, and methylene chloride. The mixture was sonicated 5 min then filtered. The resultant material was vacuum dried to yield 48 mg (61%) of the title compound as a white solid.

reactant | N1-(4-chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbony]-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine | 0.16 mmol, 97 mg | ClC1=CC=C(C(=O)NC=2C(=CC(=CC2)O[Si](C)(C)C(C)(C)C)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1 | C31H39ClN4O4Si
reactant | hydrochloric acid | 5 N, 0.5 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbony]-4-hydroxy-1,2-benzenediamine | 48 mg, 61% | ClC1=CC=C(C(=O)NC=2C(=CC(=CC2)O)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1 | C25H25ClN4O4
